### PR TITLE
Add Erdős Problem 960 (ordinary-line thresholds), link the formal proof

### LINKED ISSUE #1037: Erdős Problem 960
### What is the conjecture

https://www.erdosproblems.com/960

  Let $r,k\geq 2$ be fixed. Let $A\subset \mathbb{R}^2$ be a set of $n$ points with no $k$ points on a line. Determine the threshold $f_{r,k}(n)$ such that if there are at least $f_{r,k}(n)$ many ordinary lines (lines containing exactly two points) then there is a set $A'\subseteq A$ of $r$ points such that all $\binom{r}{2}$ many lines determined by $A'$ are ordinary.

Is it true that $f_{r,k}(n)=o(n^2)$, or perhaps even $\ll n$?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #1037.

### What changed
Adds `FormalConjectures/ErdosProblems/960.lean` with `ordinaryLines A` (lines through exactly two points of `A`, counted via their pairs), `NoKCollinear`, `HasOrdinaryClique` and the threshold `f r k n`:
- `erdos_960.parts.i` (`answer(False)`): `f_{r,k}(n) = o(n²)` fails (already for `r = 3`, `k = 4`).
- `erdos_960.parts.ii` (`answer(False)`): `f_{r,k}(n) ≪ n` fails.
- `variants.bounds`: `n²/12 - O(n) ≤ f_{r,k}(n) ≤ (1 - 1/(r-1)) n²/2 + 1` for `r ≥ 3`, `k ≥ 4` (Turán; internal OpenAI model, [APSSV26b]).

All linked to plby/lean-proofs `Erdos960.erdos_960` (Codex and GPT-5.6 Sol; 6 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos960.erdos_960` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (plby counts ordinary pairs as edges of a graph on the point subtype and uses an orientation determinant for collinearity; the bridge identifies both with the affine-span formulation):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics EuclideanGeometry Finset

namespace Bridge960

open Erdos735 in
lemma ordinaryPair_iff (A : Finset ℝ²) (p q : ℝ²) :
    OrdinaryPair A p q ↔ p ∈ A ∧ q ∈ A ∧ p ≠ q ∧
      ∀ x ∈ A, x ∈ line[ℝ, p, q] → x = p ∨ x = q := by
  unfold OrdinaryPair
  refine and_congr_right fun _ => and_congr_right fun _ => and_congr_right fun hpq => ?_
  refine forall_congr' fun x => forall_congr' fun _ => ?_
  rw [collinear3_iff_mem_affineSpan_pair hpq]

lemma hasOrdinaryClique_iff (A : Finset ℝ²) (r : ℕ) :
    Erdos960.HasOrdinaryClique A r ↔ Erdos960Plby.HasOrdinaryClique A r := by
  unfold Erdos960.HasOrdinaryClique Erdos960Plby.HasOrdinaryClique
  constructor
  · rintro ⟨B, hBA, hcard, h⟩
    exact ⟨B, hBA, hcard, fun p hp q hq hpq =>
      (ordinaryPair_iff A p q).2 ⟨hBA hp, hBA hq, hpq, h p hp q hq hpq⟩⟩
  · rintro ⟨B, hBA, hcard, h⟩
    exact ⟨B, hBA, hcard, fun p hp q hq hpq => ((ordinaryPair_iff A p q).1 (h p hp q hq hpq)).2.2.2⟩

lemma noKCollinear_iff (A : Finset ℝ²) (k : ℕ) :
    Erdos960.NoKCollinear A k ↔ Erdos960Plby.NoKCollinear A k := Iff.rfl

open Erdos735 in
lemma ordinaryLines_eq (A : Finset ℝ²) : Erdos960.ordinaryLines A = ordinaryLineCount A := by
  classical
  unfold Erdos960.ordinaryLines ordinaryLineCount
  symm
  refine Finset.card_bij
    (fun e _ => Sym2.lift ⟨fun p q : {x // x ∈ A} => ({p.1, q.1} : Finset ℝ²),
      fun p q => Finset.pair_comm _ _⟩ e) ?_ ?_ ?_
  · intro e he
    induction e using Sym2.ind with
    | h p q =>
      rw [SimpleGraph.mem_edgeFinset, SimpleGraph.mem_edgeSet, ordinaryGraph_adj,
        ordinaryPair_iff] at he
      obtain ⟨hp, hq, hpq, hord⟩ := he
      simp only [Sym2.lift_mk]
      rw [Finset.mem_filter, Finset.mem_powersetCard]
      refine ⟨⟨?_, Finset.card_pair hpq⟩, ?_⟩
      · intro x hx
        rw [Finset.mem_insert, Finset.mem_singleton] at hx
        rcases hx with rfl | rfl <;> assumption
      · intro x hx hxline
        rw [Finset.coe_pair] at hxline
        rcases hord x hx hxline with rfl | rfl <;> simp
  · intro e₁ h₁ e₂ _ heq
    induction e₁ using Sym2.ind with
    | h p q =>
      induction e₂ using Sym2.ind with
      | h p' q' =>
        simp only [Sym2.lift_mk] at heq
        have hpq : p.1 ≠ q.1 := by
          rw [SimpleGraph.mem_edgeFinset, SimpleGraph.mem_edgeSet, ordinaryGraph_adj] at h₁
          exact h₁.2.2.1
        rw [← Finset.coe_inj, Finset.coe_pair, Finset.coe_pair, Set.pair_eq_pair_iff] at heq
        rcases heq with ⟨h1, h2⟩ | ⟨h1, h2⟩
        · rw [Subtype.ext h1, Subtype.ext h2]
        · rw [Subtype.ext h1, Subtype.ext h2, Sym2.eq_swap]
  · intro B hB
    rw [Finset.mem_filter, Finset.mem_powersetCard] at hB
    obtain ⟨⟨hBA, hcard⟩, hord⟩ := hB
    obtain ⟨p, q, hpq, rfl⟩ := Finset.card_eq_two.1 hcard
    have hp : p ∈ A := hBA (by simp)
    have hq : q ∈ A := hBA (by simp)
    refine ⟨s(⟨p, hp⟩, ⟨q, hq⟩), ?_, by simp⟩
    rw [SimpleGraph.mem_edgeFinset, SimpleGraph.mem_edgeSet, ordinaryGraph_adj, ordinaryPair_iff]
    refine ⟨hp, hq, hpq, fun x hx hxline => ?_⟩
    have := hord x hx (by rw [Finset.coe_pair]; exact hxline)
    simpa using this

lemma f_eq (r k n : ℕ) : Erdos960.f r k n = Erdos960Plby.f r k n := by
  unfold Erdos960.f Erdos960Plby.f Erdos960Plby.ForcesOrdinaryClique
  simp only [ordinaryLines_eq, hasOrdinaryClique_iff, noKCollinear_iff]

theorem parts_i : type_of% Erdos960.erdos_960.parts.i := by
  show False ↔ _
  simp only [false_iff, f_eq]
  intro h
  exact (Erdos960Plby.erdos_960 (r := 3) (k := 4) le_rfl le_rfl).2.1 (h 3 (by norm_num) 4 (by norm_num))

theorem parts_ii : type_of% Erdos960.erdos_960.parts.ii := by
  show False ↔ _
  simp only [false_iff, f_eq]
  intro h
  exact (Erdos960Plby.erdos_960 (r := 3) (k := 4) le_rfl le_rfl).2.2 (h 3 (by norm_num) 4 (by norm_num))

theorem bounds : type_of% Erdos960.erdos_960.variants.bounds := by
  intro r k hr hk
  simp only [f_eq]
  refine ⟨10 / 3, ?_⟩
  filter_upwards [eventually_ge_atTop 72] with n hn
  obtain ⟨h1, h2⟩ := (Erdos960Plby.erdos_960 hr hk).1 n hn
  refine ⟨by linarith, ?_⟩
  have hcast : ((r - 1 : ℕ) : ℝ) = (r : ℝ) - 1 := by
    rw [Nat.cast_sub (by omega), Nat.cast_one]
  rw [hcast] at h2
  exact h2

#print axioms Erdos960Plby.erdos_960
#print axioms parts_i
#print axioms parts_ii
#print axioms bounds

end Bridge960
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«960»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/960.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+open scoped Classical in
+/-- The number of *ordinary lines* determined by `A` (lines containing exactly two points of
+`A`), counted through the pairs of points of `A` spanning them. -/
+noncomputable def ordinaryLines (A : Finset ℝ²) : ℕ :=
+  ((A.powersetCard 2).filter fun B : Finset ℝ² ↦
+    ∀ x ∈ A, x ∈ affineSpan ℝ (B : Set ℝ²) → x ∈ B).card
+
+/-- No `k` points of `A` lie on a line. -/
+def NoKCollinear (A : Finset ℝ²) (k : ℕ) : Prop :=
+  ∀ B ⊆ A, B.card = k → ¬ Collinear ℝ (B : Set ℝ²)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/960.lean:45]: perhaps use `EuclideanGeometry.NonCollinearFor`?

File: FormalConjectures/ErdosProblems/960.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+open Filter Asymptotics EuclideanGeometry
+
+namespace Erdos960
+
+open scoped Classical in
+/-- The number of *ordinary lines* determined by `A` (lines containing exactly two points of
+`A`), counted through the pairs of points of `A` spanning them. -/
+noncomputable def ordinaryLines (A : Finset ℝ²) : ℕ :=
+  ((A.powersetCard 2).filter fun B : Finset ℝ² ↦
+    ∀ x ∈ A, x ∈ affineSpan ℝ (B : Set ℝ²) → x ∈ B).card
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/960.lean:41]: let's move it to `Geometry/2d.lean`?
